US08541445B2
Step 5: 2-methyl-2-(5-methyl-2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)propan-1-amine
N-[2-methyl-2-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl]propyl]benzamide (55 mg, 0.1405 mmol) was dissolved in EtOH (1 mL) and treated with 5M NaOH (2.5 mL). The reaction was heated at 170° C. in the microwave for 500 minutes. The mixture was extracted with EtOAc followed by DCM and the combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (70:9:1, DCM/MeOH/NH4OH) to give the required product as a pale lemon solid (18.9 mg, 47% Yield). 1H NMR (DMSO, 400 MHz) δ 1.40 (6H, s), 2.61 (3H, s), 2.88 (2H, s), 7.51 (1H, s), 8.56 (2H, m); MS (ES+) 288.00

reactant | N-[2-methyl-2-[5-methyl-2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl]propyl]benzamide | 0.1405 mmol, 55 mg | CC(CNC(C1=CC=CC=C1)=O)(C)C=1N=C(SC1C)C1=C2C(=NC=C1)NN=C2 | C21H21N5OS
reactant | NaOH | 5M, 2.5 mL | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-methyl-2-(5-methyl-2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)propan-1-amine | CC(CN)(C)C=1N=C(SC1C)C1=C2C(=NC=C1)NN=C2 | C14H17N5S
